US09029391B2
tert-Butoxy-[7-(2-hydroxy-ethoxy)-2-methyl-4-(5-methyl-chroman-6-yl)-1-oxo-1,2-dihydro-isoquinolin-3-yl]-acetic acid
To a solution of tert-Butoxy-[7-(2-hydroxy-ethoxy)-2-methyl-4-(5-methyl-chroman-6-yl)-1-oxo-1,2-dihydro-isoquinolin-3-yl]-acetic acid methyl ester (30 mg, 0.059 mmol) in THF (3 ml), was added 1N LiOH (3 mL). The resultant mixture was stirred at 70° C. overnight. The solvent was removed in vacuo; the reaction mixture was acidified by 1N HCl solution to pH 5-6. The white solid was filtered to afford the title product (9 mg, 30.8%). LCMS (10-80 AB—2MIN.M): Rt=1.190, purity=97.3%, M+1=496.

reactant | tert-Butoxy-[7-(2-hydroxy-ethoxy)-2-methyl-4-(5-methyl-chroman-6-yl)-1-oxo-1,2-dihydro-isoquinolin-3-yl]-acetic acid methyl ester | 0.059 mmol, 30 mg | COC(C(C=1N(C(C2=CC(=CC=C2C1C=1C(=C2CCCOC2=CC1)C)OCCO)=O)C)OC(C)(C)C)=O | C29H35NO7
reactant | LiOH | 1N, 3 mL | [Li+].[OH-]
solvent | THF | 3 ml | C1CCOC1 | C4H8O
product | tert-Butoxy-[7-(2-hydroxy-ethoxy)-2-methyl-4-(5-methyl-chroman-6-yl)-1-oxo-1,2-dihydro-isoquinolin-3-yl]-acetic acid | 9 mg, 30.8% | C(C)(C)(C)OC(C(=O)O)C=1N(C(C2=CC(=CC=C2C1C=1C(=C2CCCOC2=CC1)C)OCCO)=O)C | C28H33NO7
